Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
irregular vaginal bleeding 
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy and bilateral salpingectomy 

 
History of Present Illness:
From Consultation with Dr. ___ on ___:

She is a lovely ___ gravida 3 para 4 who has a recent 
history of irregular bleeding with the Mirena IUD in situ.  
Patient's original Mirena IUD was placed ___ years ago for 
heavy menses and she had no periods until ___ when she began 
having daily spotting and postcoital spotting.  In the course of 
her evaluation for this you brought her to the operating room 
for fractional D&C on ___.  At that time you found 
polypoid appearing endocervical tissue that was curetted out.  
Hysteroscopic evaluation revealed a normal uterine cavity and a 
new Mirena IUD was replaced within the uterus at the conclusion 
of the procedure.  Final pathology showed CIN-3 in the
endocervical curettage and inactive endometrium on endometrial 
curettage.  Patient has a distant history of 3 prior cone 
biopsies for cervical dysplasia.  Following these findings her 
Pap which had been obtained in mid ___ and was originally 
signed out NIELM but positive for high risk HPV was re-reviewed 
and found to show ASC-H. 

Today, patient reports she continues to have irregular uterine 
bleeding slightly increased since her procedure of a week and 
half ago.  She also notes she has had a foul-smelling discharge 
for the last several months has been worked up and negative for 
any infections.  She is also been complaining of lower back pain 
and crampiness in addition to the discharge and bleeding.  On 
review of systems patient also endorses chronic issues with 
headaches and lack of appetite along with some diarrhea and dark 
stools.  Remainder of a 10 point review systems is entirely 
negative.
 
Past Medical History:
Past medical history: Asthma

Health maintenance: Last mammogram in ___ normal.  Last
colonoscopy in ___ cannot remember why she had this.

Past surgical history:
-Hysteroscopy D&C with Dr. ___ at ___ ___: Hysteroscopy in the ___
-___ umbilical hernia repair, D&C in the ___
-___: Laparoscopy ×3 for GYN issues in the ___
-___: Cone biopsy ×3 in the ___
-___: Tonsils and adenoids
-___: Hernia repair as an infant (is a twin)

Past obstetric history: Gravida 3 para 2204
-___: C-section for twins at 29 weeks complicated by retained
products requiring D&C
-___: C-section
-___: C-section

Past gynecologic history: LMP ___.  Irregular bleeding for
the last 3 months as described in the HPI.  Mirena was removed
that have been in place for ___ years and replaced at time of
her recent D&C hysteroscopy.  Menses occur irregularly but at
least monthly and are 7 or more days and very heavy flow. 
Reports history of abnormal Paps dating back to ___ and 3 prior
cone biopsies.  Last Pap in ___ as described in HPI of note
since ___ did have several normal Pap smears with exception of
recent high risk HPV positivity last in ___ per
patient.  Patient also notes history of adenomyosis.  She denies
any history of gynecologic infections or STI's.  Believe she has
a history of ovarian cysts.
 
Social History:
___
Family History:
Maternal aunt with ovarian cancer. Mother with uterine and colon 
cancer.  Paternal grandmother with unknown cancer.
 
Physical Exam:
DISCHARGE EXAM

Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
Pathology
Uterus with or without tubes/ovaries - pending 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman who was admitted to the 
gynecologic oncology service after undergoing total laparoscopic 
hysterectomy and bilateral salpingectomy for cervical dysplasia 
(CIN-3). Please see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with oral 
acetaminophen, ibuprofen, and oxycodone. Her diet was advanced 
without difficulty. On post-operative day #0, her urine output 
was adequate so her Foley catheter was removed and she voided 
spontaneously. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing  
2. Fluticasone-Salmeterol Diskus (250/50) 1 INH IH BID:PRN 
wheezing  

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*60 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily with 
meals Disp #*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six hours Disp 
#*60 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*30 
Tablet Refills:*0 
5.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing  
6.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID:PRN 
wheezing  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cervical dysplasia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for  8 
weeks
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.   
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Best wishes,

Your ___ GYN/Oncology Team
 
Followup Instructions:
___